US04342875
Pentaerythritol Tetrakis(2,4-dimethoxybenzoate)
Using the procedure of Eample I, 2,4-dimethoxybenzoyl chloride was allowed to react with pentaerythritol in the molar ratio of 4:1. The reaction gave a 78% yield of white crystalline product having a melting point of 125°-126.5° C. and the infrared spectrum was a consistent with the expected tetraester with no hydroxyl band and an ester carbonyl band at 5.85μ (s).

reactant | 2,4-dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
product | Pentaerythritol Tetrakis(2,4-dimethoxybenzoate) | 78% yield | COC1=C(C(=O)OCC(COC(C2=C(C=C(C=C2)OC)OC)=O)(COC(C2=C(C=C(C=C2)OC)OC)=O)COC(C2=C(C=C(C=C2)OC)OC)=O)C=CC(=C1)OC | C41H44O16
